US09428465B2
Step 2. Preparation of 5-[[tert-butyl(dimethyl)silyl]oxymethyl]-N-hexyl-2,4-dioxo-pyrimidine-1-carboxamide
The title compound: was obtained according to the procedure described for the synthesis of Example 1, starting from 5-[[tert-butyl(dimethyl)silyl]oxymethyl]-1H-pyrimidine-2,4-dione (0.28 g, 1.08 mmol); 2.2 equiv of DMAP and 2.2 equiv of hexyl isocyanate were used herein. The reaction was here stirred for 66 hrs, and the crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 75:25) to afford the title compound (0.30 g, 73%) as a white solid. 1H NMR (400 MHz, CDCl3); δ 0.12 (s, 6H), 0.89 (t, J=6.9 Hz, 3H), 0.94 (s, 9H), 1.29-1.39 (m, 6H), 1.58-1.63 (m, 2H), 3.39 (td, J=7.1, 5.7 Hz, 2H), 4.52 (d, J=1.7 Hz, 2H), 828 (s, 1H), 8.47 (t, J=1.7 Hz, 1H), 9.06 (t, J=4.8 Hz, 1H). MS (ESI) m/z: 384 [M-H]+.

reactant | 5-[[tert-butyl(dimethyl)silyl]oxymethyl]-1H-pyrimidine-2,4-dione | 1.08 mmol, 0.28 g | [Si](C)(C)(C(C)(C)C)OCC=1C(NC(NC1)=O)=O | C11H20N2O3Si
reactant | hexyl isocyanate | 2.2 equiv | C(CCCCC)N=C=O | C7H13NO
catalyst | DMAP | 2.2 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-[[tert-butyl(dimethyl)silyl]oxymethyl]-N-hexyl-2,4-dioxo-pyrimidine-1-carboxamide | 0.30 g, 73% | [Si](C)(C)(C(C)(C)C)OCC=1C(NC(N(C1)C(=O)NCCCCCC)=O)=O | C18H33N3O4Si
